US04563477
15.1 g (0.1 mole) of alpha-phenylglycine were resuspended in 450 ml of dimethylformamide, followed by the addition of 15 g of p-toluene sulphonic acid and 13.2 g (0.1 mole) of 2,5-dimethoxytetrahydrofuran. The mixture was heated to boiling, and at about 95° C. all the solid product was dissolved, the boiling temperature being held for about 60 minutes. After this time, the mixture was cooled, 400 ml of cold water were added and the total mixture was cooled to between 0°-5° C. The mixture was extracted twice with 200 ml of ethyl ether each time, the ether phases being discarded. The aqueous phase was extracted with 500 ml chloroform at pH 1.5. The chloroform extract was treated with 600 ml water and the pH was adjusted to 11. After separating the phases, 500 ml of chloroform were added to the aqueous extract, the pH being adjusted to 1.5 with 2N HCl. The chloroform phase was concentrated to obtain an oil which was crystallised from methanol-water. After drying, the alpha-(N-pyrrolyl)-phenylacetic acid obtained weighed 5.8 g.

reactant | alpha-phenylglycine | 0.1 mole, 15.1 g | C1(=CC=CC=C1)C(N)C(=O)O | C8H9NO2
reactant | p-toluene sulphonic acid | 15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,5-dimethoxytetrahydrofuran | 0.1 mole, 13.2 g | COC1OC(CC1)OC | C6H12O3
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | alpha-(N-pyrrolyl)-phenylacetic acid | N1(C=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C12H11NO2
